US07432284B2
A solution of N,N,N′-trimethylethylenediamine (20.3 mL, 156 mmol) in 75 mL of THF was cooled to −50° C. and a 2.5M solution of n-butyllithium in hexanes (62.5 mL, 156 mmol) was added dropwise with stirring during 15 minutes, keeping the internal temperature below −35° C. The temperature was maintained at 40° C. for 30 minutes, and then the reaction mixture was cooled to −70° C. A solution of 4-fluoro-3-methoxybenzaldehyde (24.09 g, 156.3 mmol) in 75 mL of THF was added dropwise during 15 minutes, keeping the reaction temperature below −50° C. When the addition was complete, the reaction was allowed to warm to −40° C. and held there for 25 minutes. The reaction was then re-cooled to −70° C. and a 2.5M solution of n-butyllithium in hexanes (62.5 mL, 156 mmol) was added dropwise. When the addition was complete, the reaction was allowed to warm to −20° C. and kept at that temperature overnight (12 hours). The reaction mixture was then cooled to −30° C. and the cold solution was added via cannula during 30 minutes to a room temperature solution of hexachloroethane (111 g, 469 mmol) in 200 mL of THF. After stirring at room temperature for 4 hours, the reaction mixture was poured into 500 mL of ice cold 4N HCl. Most of the THF was removed by rotary evaporation under reduced pressure and the residual mixture was extracted twice with 1:1 ethyl ether/hexanes. The organic layers were combined and washed successively with 1N NaOH, 1N HCl, water, and brine. After drying over sodium sulfate, removal of the solvent under vacuum gave a yellow solid. Flash chromatography on silica gel eluting with hexanes/dichloroethane (2:1 to 1:1) gave 2-chloro-4-fluoro-3-methoxybenzaldehyde as a white solid.

reactant | N,N,N′-trimethylethylenediamine | 156 mmol, 20.3 mL | CN(CCNC)C | C5H14N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-fluoro-3-methoxybenzaldehyde | 156.3 mmol, 24.09 g | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
reactant | hexachloroethane | 469 mmol, 111 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-fluoro-3-methoxybenzaldehyde | ClC1=C(C=O)C=CC(=C1OC)F | C8H6ClFO2
